US06087380
b. 1-Methyl-2-[N-[4-(N-hydroxylamidino)-phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-[2-(methansulphonylaminocarbonyl)-ethyl]-amide
Prepared analogously to Example 96 from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-[2-(methanesulphonylaminocarbonyl)-ethyl]-amide and hydroxylamine. Yield: 27% of theory, C26H28N8O5S (564.6) Rf value: 0.75 (silica gel; dichloromethane/ethanol=7:3+1% glacial acetic acid) ##EQU137##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-[2-(methanesulphonylaminocarbonyl)-ethyl]-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)NS(=O)(=O)C | C26H25N7O4S
reactant | hydroxylamine | NO | H3NO
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Methyl-2-[N-[4-(N-hydroxylamidino)-phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-[2-(methansulphonylaminocarbonyl)-ethyl]-amide | Yield: 27% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NO)=N)C)C=C1)CCC(=O)NS(=O)(=O)C | C26H28N8O5S
